* source 747
X_U4         NET+ NET- N62625 N62636 N62187 0 NET1 N62328 AD623 
R_R16         N62625 N62636  200k TC=0,0 
V_V30         NET- 0 1.5Vdc
V_V31         N62187 0 3.3Vdc
R_R17         N62187 N62328  200k TC=0,0 
R_R18         N62328 0  100k TC=0,0 
R_R19         NET2 N62328  2000k TC=0,0 
R_R20         NET2 N73776  100k TC=0,0 
R_R21         N73776 N73790  100k TC=0,0 
R_R22         N62625 N62636  200k TC=0,0 
R_R23         N74337 NET3  200k TC=0,0 
R_R24         N62328 N74337  300k TC=0,0 
R_R25         NET3 N75122  20k TC=0,0 
R_R26         N62328 N75211  20k TC=0,0 
R_R27         N75211 NET4  510k TC=0,0 
X_U5         N73790 N74337 N62187 0 NET3 OP747 
X_U6         N75122 N75211 N62187 0 NET4 OP747 
C_C1         NET1 NET2  1u  TC=0,0 
V_V32         NET+ NET- DC 0Vdc AC 3mVac 
C_C2         N73776 NET3  47n  TC=0,0 
C_C3         N62328 N73790  47n  TC=0,0 
