* source T5TTTY
V_V1         N00060 N00453  
+SIN 0v 10mV 10Hz 0 0 0
V_V2         N00453 0 1.8Vdc
V_V3         N00308 0 3.3Vdc
X_U1         N00060 N00453 N01802 N01809 N00308 0 N01838 0 AD623 
R_R1         N01809 N01802  100k TC=0,0 
